US06353006B1
(1S)-1-(Hydroxymethyl)-2-methylbutylamine was made from (L)-isoleucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S)-1-(chloromethyl)-2-methylbutanammonium chloride as described in Method B7a. 2,5-Dimethyl-4-nitrobenzonitrile was converted to 4-cyano-2,5-methylaniline according to Method A1a. The aniline was converted to 4-cyano-2,5-dimethylphenyl isothiocyanate as described in Method A2a, Step 3. 4-Cyano-2,5-dimethylphenyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-2-methylbutanammonium chloride to Method C1a to give (4S)-2-(4-cyano-2,5-dimethylphenylimino)-4-(2-butyl)-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to give (4S)-2-(4-cyano-2,5-dimethylphenylimino)-4-butyl-3-isobutyl-1,3-thiazolidine.

reactant | (1S)-1-(Hydroxymethyl)-2-methylbutylamine | OC[C@H](C(CC)C)N | C6H15NO
reactant | (L)-isoleucine methyl ester | COC([C@@H](N)[C@@H](C)CC)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 2,5-Dimethyl-4-nitrobenzonitrile | CC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])C | C9H8N2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-cyano-2,5-dimethylphenyl isothiocyanate | C(#N)C1=CC(=C(C=C1C)N=C=S)C | C10H8N2S
product | (4S)-2-(4-cyano-2,5-dimethylphenylimino)-4-(2-butyl)-1,3-thiazolidine | C(#N)C1=CC(=C(C=C1C)N=C1SC[C@@H](N1)C(C)CC)C | C16H21N3S
